US05621133
1-Acetylaminomethyl-3-phenyl-5,6-dihydroxy-3,4-dihydronaphthalene
Approximately 1 mmol of 1-aminomethyl-3-phenyl-5,6-dihydroxy-3,4-dihydronaphthalene, from Example 2, was reacted with 1.2 mmol of acetic anhydride in the presence of 1.2 mmol of triethylamine in an excess of methylene chloride. The mixture was washed with 0.1N HCl, and dried. The product was precipitated by addition of ether, collected, and dried. mp 238° C. MS M/Z: 310. Anal. calc. for C19H19NO3.HBr C: 65.03; H, 5.72; N, 3.61; found: C, 73.46; H, 6.13; N, 4.49.

reactant | 1-aminomethyl-3-phenyl-5,6-dihydroxy-3,4-dihydronaphthalene | 1 mmol | NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1 | C17H17NO2
reactant | acetic anhydride | 1.2 mmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.2 mmol | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Acetylaminomethyl-3-phenyl-5,6-dihydroxy-3,4-dihydronaphthalene | C(C)(=O)NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1 | C19H19NO3
